US06511974B1
[2-Chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-(3-dimethylaminomethyl-5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
To a stirred solution of [2-chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-(5H,11H-pyrrolo-[2,1-c][1,4]benzodiazepin-10-yl)-methanone (1.61 g), N, N, N′, N′, tetramethyldiamino-methane (0.82 g), and glacial acetic acid (0.48 g) in methanol (25 ml) was added a solution of 37% aqueous formaldehyde (4 ml). The mixture was warmed to 40° C. for 10 minutes. After stirring one hour at room temperature, the reaction was concentrated in vacuo, redissolved in dichloromethane, and extracted sequentially with aqueous sodium bicarbonate and water (4×). The organic phase was dried over anhydrous sodium sulfate, and filtered through a plug of silica gel, eluted with ethyl acetate. Evaporation of the solvent in vacuo afforded an oil, which on trituration with hexane yielded 0.36 g of the title compound as a colorless powder, m.p. 100-102° C.; MS (+FAB), m/z: 482 (M+Na)+, 460 (M+H)+.

reactant | [2-chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-(5H,11H-pyrrolo-[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.61 g | ClC1=C(C=CC(=C1)N1N=C(C=C1)C)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C23H19ClN4O
reactant | acetic acid | 0.48 g | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 4 ml | C=O | CH2O
solvent | methanol | 25 ml | CO | CH4O
product | [2-Chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-(3-dimethylaminomethyl-5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.36 g | ClC1=C(C=CC(=C1)N1N=C(C=C1)C)C(=O)N1CC=2N(CC3=C1C=CC=C3)C(=CC2)CN(C)C | C26H26ClN5O
